US08207199B2
A mixture of tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate (1.0 g), 4-chlorobenzonitrile (1.7 g), potassium carbonate (0.28 g), and butanol (8.0 mL) was heated at 150° C. for 2 hours using a microwave device. After leaving to be cooled, the solvent was evaporated under reduced pressure, and the residue was azeotroped with toluene. The residue was purified by silica gel column chromatography (chloroform/methanol=100/0 to 90/10). To the purified product was added diisopropyl ether, and the resulting solid was collected by filtration and dried under reduced pressure to obtain tert-butyl 4-[3-(4-chlorophenyl)-1H-1,2,4-triazol-5-yl]piperidine-1-carboxylate (0.62 g).

reactant | tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate | 1.0 g | N(N)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H21N3O3
reactant | 4-chlorobenzonitrile | 1.7 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanol | 8.0 mL | C(CCC)O | C4H10O
product | tert-butyl 4-[3-(4-chlorophenyl)-1H-1,2,4-triazol-5-yl]piperidine-1-carboxylate | 0.62 g | ClC1=CC=C(C=C1)C1=NNC(=N1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H23ClN4O2
